US08039463B2
Ammonium chloride (1.12 g, 21 mmol) in water (5 mL) was added to a stirred solution of 2-methyl-5-(4-nitro-phenyl)-[1,3,4]oxadiazole (530 mg, 2.6 mmol) in THF (10 mL). Zinc powder (1.4 g, 21 mmol) was added portion wise and the mixture was stirred at room temperature for 1 hour then heated to reflux at 65° C. for 5 hours. The mixture was then filtered over celite and the filtrate was concentrated. The residue was extracted with ethyl acetate and the organics were washed with brine solution, dried over Na2SO4 and concentrated. The residue was purified by column chromatography using basic alumina (4% methanol in chloroform) to afford 220 mg (48%) of 4-(5-methyl-[1,3,4]oxadiazol-2-yl)-phenyl amine. 1H NMR: (CDCl3): δ 7.8 (d, 2H), 6.7 (d, 2H), 4.0 (s, 2H), 2.6 (s, 3H).

reactant | Ammonium chloride | 21 mmol, 1.12 g | [Cl-].[NH4+]
reactant | 2-methyl-5-(4-nitro-phenyl)-[1,3,4]oxadiazole | 2.6 mmol, 530 mg | CC=1OC(=NN1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H7N3O3
solvent | water | 5 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Zinc | 21 mmol, 1.4 g | [Zn] | Zn
product | 4-(5-methyl-[1,3,4]oxadiazol-2-yl)-phenyl amine | 220 mg, 48% | CC1=NN=C(O1)C1=CC=C(C=C1)N | C9H9N3O
